US06951879B2
In analogy to example 3.1, 6-(3-Bromo-propoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and pyrrolidine were converted to yield 1-{3-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-propyl-pyrrolidine as colorless oil, MS: 356 (MH+).

reactant | 6-(3-Bromo-propoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C17H14BrFOS
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 3-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-propyl-pyrrolidine | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCN2CCCC2 | C21H22FNOS
